US06716837B1
6-[N-methyl-1,2,5,6-tetrahydropyridin-4-yl]-indole (compound 30)
6-[N-Methyl-1,2,5,6-tetrahydropyridin-4-yl]-1-isopropyl-indole : from 6-[4-Hydroxy-1-methyl-piperidin-4-yl]-1-isopropyl-indole (20 mg, 0.0735 mmol) in 0.1 ml of TFA and 1 ml of THF at 60-64° C. Yield 4.8 mg (26%).

reactant | 6-[N-Methyl-1,2,5,6-tetrahydropyridin-4-yl]-1-isopropyl-indole | CN1CC=C(CC1)C1=CC=C2C=CN(C2=C1)C(C)C | C17H22N2
reactant | 6-[4-Hydroxy-1-methyl-piperidin-4-yl]-1-isopropyl-indole | 0.0735 mmol, 20 mg | OC1(CCN(CC1)C)C1=CC=C2C=CN(C2=C1)C(C)C | C17H24N2O
solvent | TFA | 0.1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-[N-methyl-1,2,5,6-tetrahydropyridin-4-yl]-indole | CN1CC=C(CC1)C1=CC=C2C=CNC2=C1 | C14H16N2
